US04065455
Example I was essentially repeated using 2-methyl-8-hydroxyquinoline in place of 5-chloro-8-hydroxyquinoline. The resultant 2-methyl-7-dodecenyl-8-hydroxyquinoline was hydrogenated by the procedure of Example II, Part B to give 2-methyl-7-dodecyl-8-hydroxyquinoline.

reactant | 2-methyl-8-hydroxyquinoline | CC1=NC2=C(C=CC=C2C=C1)O | C10H9NO
reactant | 2-methyl-7-dodecenyl-8-hydroxyquinoline | CC1=NC2=C(C(=CC=C2C=C1)C=CCCCCCCCCCC)O | C22H31NO
product | 2-methyl-7-dodecyl-8-hydroxyquinoline | CC1=NC2=C(C(=CC=C2C=C1)CCCCCCCCCCCC)O | C22H33NO
